US04920116
N-(2-Chloro-4-methoxyphenyl)-2-[cyclohexylmethyl (2-propenyl)amino]acetamide
In a manner similar to Preparation 1 react 2-chloro-4-methoxybenzenamine with chloroacetyl chloride followed by N-(2-propenyl)cyclohexanemethanamine to obtain the title compound.

reactant | 2-chloro-4-methoxybenzenamine | ClC1=C(C=CC(=C1)OC)N | C7H8ClNO
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | N-(2-propenyl)cyclohexanemethanamine | C(C=C)NCC1CCCCC1 | C10H19N
product | N-(2-Chloro-4-methoxyphenyl)-2-[cyclohexylmethyl (2-propenyl)amino]acetamide | ClC1=C(C=CC(=C1)OC)NC(CN(CC=C)CC1CCCCC1)=O | C19H27ClN2O2
